US06242422B1
(2RS,4R)-3-((1-Naphthyloxy)Acetyl)-2-Phenylthiazolidine-4-Carboxylic Acid
To a solution of (2RS,4R)-3-((1-naphthyloxy)acetyl)-2-phenylthiazolidine-4-carboxylic acid, methyl ester (2.50 g, 6.14 mmol) in dioxane(15 mL)-water(5.0 mL) at room temperature was added 1.0 N LiOH solution (6.75 mL, 6.75 mmol). After stirring at room temperature for 16 hrs, The mixture was partitioned between EtOAc-5% KHSO4. The organic phase was washed with saturated NaCl solution, dried over anhydrous Na2SO4 and evaporated to give the title compound (2.42 g, 100%) as a viscous oil. TLC(MeOH—CH2Cl2; 1:9) Rf=0.38.

reactant | (2RS,4R)-3-((1-naphthyloxy)acetyl)-2-phenylthiazolidine-4-carboxylic acid, methyl ester | 6.14 mmol, 2.50 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)N1C(SC[C@H]1C(=O)OC)C1=CC=CC=C1 | C23H21NO4S
reactant | water | 5.0 mL | O | H2O
reactant | LiOH | 6.75 mmol, 1.0 N, 6.75 mL | [Li+].[OH-]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (2RS,4R)-3-((1-Naphthyloxy)Acetyl)-2-Phenylthiazolidine-4-Carboxylic Acid | 2.42 g, 100% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N1C(SC[C@H]1C(=O)O)C1=CC=CC=C1 | C22H19NO4S
